US06914074B2
6-(4-Hydroxyphenyl)-2-naphthol
2-Methoxy-6-(4-methoxyphenyl)naphthalene (5.61 g, 21.2 mmol) was added to pyridinium HCl (30 g) at 190° C. according to Method B to afford 4.88 g (98%) of a white solid: mp>220 (discolors above 200° C.); 1H NMR (DMSO-d6): δ 6.87 (2H, d, J=8.54 Hz), 7.08 (1H, dd, J=2.34 Hz, J=8.76 Hz), 7.11 (1H, d, J=2.14 Hz), 7.58 (2H, d, J=8.54 Hz), 7.65 (1H, dd, J=1.92 Hz, J=8.76 Hz), 7.71 (1H, d, J=8.54 Hz), 7.79 (1H, d, J=8.97 Hz), 7.95 (1H, s), 9.56 (1H, bs), 9.70 (1H, bs); MS (ESI) m/z 235 (M−H)−.

reactant | 2-Methoxy-6-(4-methoxyphenyl)naphthalene | 21.2 mmol, 5.61 g | COC1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)OC | C18H16O2
reactant | pyridinium HCl | 30 g | Cl.[NH+]1=CC=CC=C1
product | 6-(4-Hydroxyphenyl)-2-naphthol | 4.88 g, 98% | OC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)O | C16H12O2
